US04223132
To a solution of N-t-butoxycarbonyl-L-phenylalanine benzyl ester (1 g) in methylene chloride (10 ml) is added aluminum chloride (1 g) in anisole (12 ml), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is poured into an aqueous sodium hydrogen carbonate solution and filtered to remove insoluble material. The filtrate is washed with methylene chloride, acidified to pH 2.5 with hydrochloric acid, and adsorbed on high porous polymer HP-20 (manufactured by Mitsubishi Chemical Co., Ltd.). After washing with water, the resin is washed with methanol. Concentration of the methanol eluent gives crystals of L-phenylalanine (0.3 g) melting at 270° C. Yield: 54%.

reactant | N-t-butoxycarbonyl-L-phenylalanine benzyl ester | 1 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C21H25NO4
reactant | aluminum chloride | 1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 12 ml | C1(=CC=CC=C1)OC | C7H8O
product | L-phenylalanine | 0.3 g, Yield: 54% | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
